US09446394B2
N-(Undec-10-en-1-yl)hex-5-enamide (Precursor to 17)
Following the aforementioned procedure, diene was prepared from hex-5-enoic acid and undec-10-en-1-amine. The resulting yellow solid was purified by silica gel chromatography (5:1 hexanes: ethyl acetate) to afford the desired product as a white solid. IR (neat): 3291 (br, s), 3078 (m), 2924 (s), 2853 (s), 1640 (s), 1550 (s), 1438 (s), 1369 (m), 1257 (m), 991 (s), 908 (s), 722 (m), 634 (m); 1H NMR (400 MHz, CDCl3): δ 5.86-5.73 (2H, m), 5.39 (1H, s, br), 5.05-4.91 (4H, m), 3.23 (2H, dt, J=13.2, 7.2, 6.6 Hz), 2.16 (2H, t, J=7.4 Hz), 2.12-2.00 (4H, m), 1.78-1.70 (2H, m), 1.50-1.46 (2H, m), 1.38-1.27 (12H, m); 13C NMR (100 MHz, CDCl3): δ 172.8, 139.3, 138.1, 115.4, 114.3, 39.6, 36.2, 33.9, 33.3, 29.8, 29.6, 29.5, 29.4, 29.2, 29.1, 27.1, 24.9; HRMS (ESI+) [M+H]+ calcd for C17H32N1O1: 266.2484. found: 266.2491.

reactant | hex-5-enoic acid | C(CCCC=C)(=O)O | C6H10O2
reactant | undec-10-en-1-amine | C(CCCCCCCCC=C)N | C11H23N
product | N-(Undec-10-en-1-yl)hex-5-enamide | C(CCCCCCCCC=C)NC(CCCC=C)=O | C17H31NO
